Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Enalapril / Serevent Refill / epinephrine / ibuprofen
 
Attending: ___.
 
Chief Complaint:
fevers, bilateral flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with PMHx of HTN who initially presented for an HCA  
visit last ___ with bilateral flank pain, lower abdominal 
pain, and dysuria. UA at that time showed pH 6.5, trace 
leukocytes, trace protein, trace blood, negative ketones, and 
negative glucose. She was given cipro and started on motrin 600 
mg TID. However, when cx returned negative, she was instructed 
to stop the cipro. She then experienced worsening symptoms, and 
presented back to her PCP on ___. Was started back on 
ciprofloxacin. Since then, she has had worsening bilateral ___ 
flank pain, radiating in the the lower abdomen.  She has no 
history of kidney stones, and this has never happened before.  
She developed more diffuse abdominal pain, some chills, as well 
as nausea and vomiting.  She came to the ED for further 
evaluation.  
.  
On arrival to the ED, the patient's VS were Temp:99.3 HR:89 
BP:163/102 Resp:18 O(2)Sat:98. Labs were significant for WBC of 
18, Cr of 1.2, and UA with 16 RBCs. Given concern for possible 
kidney stone, she underwent CT scan. This showed bilateral 
perinephric fat stranding, concerning for possible early / 
atypical pyelonephritis. The patient was discussed with the 
renal fellow. It was decided to tx empirically for pyelo and 
admit to medicine. Of note, the patient did have significant 
pain the ED, requiring IV morphine and dilaudid. VS prior to 
transfer 98.9 65 123/85 16 98%RA.  
.  
On arrival to the floor, the patient's VS were T 97.7, BP 
133/70, HR 54, RR 18, SaO2 96% on RA. This morning she reports 
that her abdominal pain was improved to ___ but still present. 
She has continued nausea and dysuria.  No fevers, chills, CP, 
SOB, hematuria, diarrhea, swelling or rashes.
 
Past Medical History:
Hypertension  
Lumbar disc herniation  
Erythroderm - Likely viral, or sun related.  
Asthma - Quiescent  
Allergic rhinitis  
Vaginal dryness  
Head trauma - A large metal piece landed on her head while she 
was shopping at ___  

 
Social History:
___
Family History:
Mother with CHF, father with CAD, brothers diet in ___ from 
cardiac disease. Father with unspecified kidney problems. Cousin 
with kidney stones.
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
AVSS
Gen:  AOx3, NAD
Cardiac:  RR, no murmurs
Lungs:  CTAB
Abd:  mildly TTP over epigastrium, soft, +BS, +CVAT bilat
Ext:  no edema
Neuro:  CN II-XII intact, no focal findings, normal gait
 
Pertinent Results:
ADMISSION LABS:
.
___ 04:15PM BLOOD WBC-18.0*# RBC-4.64 Hgb-15.0 Hct-42.7 
MCV-92 MCH-32.3* MCHC-35.1* RDW-13.1 Plt ___
___ 04:15PM BLOOD Neuts-73.9* ___ Monos-4.2 Eos-1.7 
Baso-0.4
___ 04:15PM BLOOD Plt ___
___ 04:15PM BLOOD Glucose-125* UreaN-17 Creat-1.2* Na-139 
K-3.4 Cl-102 HCO3-25 AnGap-15
___ 04:15PM BLOOD ALT-28 AST-32 AlkPhos-80 TotBili-0.5
___ 04:15PM BLOOD Albumin-4.4
___ 04:20PM BLOOD Lactate-2.2*
.
.
PERTINENT LABS/STUDIES:
.
WBC: 18.0 -> 8.6
Hct: 42.7 -> 35.2
Cr: 1.2 -> 1.4 -> 1.1
BUN: 17 -> 10
Lactate: 2.2
Urine Eos: Positive
FeNa: 2.2%
.
U/A: WBC 16, RBC 1, Bacteria: few, Yeast: none
UCx: No growth (x2)
.
CT Abd/Pelvis (___): 1. No stones or hydronephrosis in both 
kidneys. Extensive perinephric inflammatory fat stranding around 
both kidneys, without abnormal enhancement, these findings may 
represent early/atypical pyelonephritis.  2. Fatty liver. 
.
.
DISCHARGE LABS:
___ 06:55AM BLOOD WBC-8.6 RBC-3.87* Hgb-12.8 Hct-35.2* 
MCV-91 MCH-33.1* MCHC-36.4* RDW-13.0 Plt ___
___ 06:55AM BLOOD Glucose-97 UreaN-10 Creat-1.1 Na-144 
K-3.4 Cl-108 HCO3-26 AnGap-13
___ 06:55AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.9
___ 05:44AM BLOOD Lipase-36
 
Brief Hospital Course:
The patient is a ___ yo woman without significant PMH who 
presented from home with bilateral flank pain, chills, and 
dysuria, concerning for pyelonephritis.   
.
# Atypical pyelonephritis:  The patient presented with a 
five-day history of worsening flank pain, chills, and dysuria.  
In the ED, CT abdomen demonstrated stranding around both 
kidneys, concerning for early/atypical bilateral pyelonephritis, 
and she had a leukocytosis to 18K and lactate to 2.2.  She was 
started on IV Ceftriaxone in the ED, and her leukocytosis and 
pain improved.  She was discharged on a 14-day course of 
Cefpodoxime and remained afebrile during her hospitalization.  
She was treated with Tylenol for the flank pain and was able to 
tolerate a full diet prior to discharge.  Of note, the patient's 
two urine cultures on this admission both showed no growth; 
however, she had been treated with Cipro for 5 days prior to 
admission.  
.
# New epigastric pain:  The patient presented with at two-day 
history of epigastric pain, which occurred in the setting of 
NSAID use for her flank pain.  Lipase and LFTs were negative, 
and it was thought that her symptoms were most likely consistent 
with NSAID gastritis given recent intake.  She was started on 
Protonix and Sucralfate and was instructed to continue these 
medications until her follow-up appointment with Dr. ___ on 
___.
.
# ___ due to AIN:  The patient was found to have an elevated 
creatinine on admission, which further increased to 1.4, from 
her baseline of 0.7.  Her FeNa was 2.2% and she was found to 
have urine eos, which is consistent with acute interstitial 
nephritis.  This was likely secondary to either Cipro or 
Ibuprofen, and she was instructed to avoid both medications in 
the near future.  Her creatinine had decreased to 1.1 by the 
time of discharge.  
.
# HTN: The patient has a history of HTN, for which she takes 
HCTZ at home.  Given her acute renal failure, this medication 
was held on admission, and she was instructed to continue to 
hold it until her appointment with Dr. ___ on ___.  
 
Medications on Admission:
Atenolol 25 mg daily  
HCTZ 25 mg daily  
Motrin PRN  
Albuterol  
Ca
Nasal Spray 
 
Discharge Medications:
1. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO ONCE (Once) as needed for nausea for 4 doses.
Disp:*4 Tablet, Rapid Dissolve(s)* Refills:*0*
2. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours) for 
13 days.
Disp:*13 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
4. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day) for 13 days.
Disp:*52 Tablet(s)* Refills:*0*
5. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
6. cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 13 days.
Disp:*52 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Atypical bilateral pyelonephritis
NSAID gastritis
Acute interstitial nephritis due to NSAIDs and/or ciprofloxacin

SECONDARY:
High blood pressure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized for an infection of your kidneys.  You 
were treated with antibiotics and medicines to treat your pain 
and nausea, and your symptoms have improved.  Your abdominal 
pain is most likely due to your recent use of motrin, and has 
improved with medications.  You were also found to have acute 
kidney injury most likely due to recent use of motrin and/or 
ciprofloxacin, and your kidney function has improved during your 
stay.

While you were here we made the following changes to your 
medications:
1.  You were STARTED on cefpodoxime to treat your infection. 
Please continue taking this medication until ___.
2.  You were STARTED on protonix and sucralfate to treat your 
gastritis.  Please continue to take these medications until 
___.
3.  You were STARTED on Tylenol to treat your pain.  Please 
continue to take this medication as needed for pain.
4.  You were STARTED on Zofran, as needed for nausea over the 
next 2 days.
5. We STOPPED your Hydrochlorothiazide because of your elevated 
creatinine.  Please continue to hold this medication until you 
see your PCP.
6. We STOPPED your Motrin, as this likely caused inflammation of 
your stomach.
7. We STARTED you on Senna and Colace for your bowel movements.

It was a pleasure taking care of you!
 
Followup Instructions:
___